US08912176B2
Preparation of methyl 6-(methylcarbamoyl)pyridine-3-carboxylate
To a stirred solution of MeNH2.HCl (173 mg, 5.12 mmol) in toluene (5 mL) at 0° C., was added AlMe3 (2 M solution in Hexanes, 1.28 mL, 2.56 mmol). After 30 minutes the solution was canulated into a stirred solution dimethyl pyridine-2,5-dicarboxylate (500 mg, 2.56 mmol) in DCM (5 mL) at 0° C. before stirring over night at room temperature. An aliquot was taken and analysed by NMR, indicating that there was a 0.8:1 ratio of product to starting material. MeNH2.HCl (173 mg, 5.124 mmol) and AlMe3 (2M solution in Hexanes, 1.28 mL, 2.56 mmol) were added and the reaction stirred for 12 hours. The reaction was quenched by addition of H2O (2 mL) and extracted with EtOAc (2×10 mL). The organics were combined, dried (MgSO4), filtered and concentrated at reduced pressure to give the title compound (520 mg, quant. yield) which was used without further purification.

reactant | MeNH2.HCl | 5.12 mmol, 173 mg | CN.Cl
reactant | AlMe3 | 2.56 mmol, 2 M, 1.28 mL | C[Al](C)C
reactant | dimethyl pyridine-2,5-dicarboxylate | 2.56 mmol, 500 mg | N1=C(C=CC(=C1)C(=O)OC)C(=O)OC | C9H9NO4
reactant | MeNH2.HCl | 5.124 mmol, 173 mg | CN.Cl
reactant | AlMe3 | 2.56 mmol, 2M, 1.28 mL | C[Al](C)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-(methylcarbamoyl)pyridine-3-carboxylate | 520 mg, quant. yield | CNC(=O)C1=CC=C(C=N1)C(=O)OC | C9H10N2O3
